US07183276B2
A mixture of methyl 3-{2-(1H-benzimidazol-1-yl)-4-[4-(trifluoromethyl)phenyl]-5-oxazolyl}propionate (1.00 g), 1N aqueous sodium hydroxide solution (10 mL), tetrahydrofuran (10 mL) and ethanol (10 mL) was stirred at room temperature for 1 hr. The reaction mixture was poured into dilute hydrochloric acid, and the precipitated crystals were collected by filtration, washed with water, dried and recrystallized from tetrahydrofuran-ethanol to give 3-{2-(1H-benzimidazol-1-yl)-4-[4-(trifluoromethyl)phenyl]-5-oxazolyl}propionic acid (1.00 g, yield 83%) as pale-yellow prism crystals. melting point: 224–226° C.

reactant | methyl 3-{2-(1H-benzimidazol-1-yl)-4-[4-(trifluoromethyl)phenyl]-5-oxazolyl}propionate | 1.00 g | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)C(F)(F)F)CCC(=O)OC | C21H16F3N3O3
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-{2-(1H-benzimidazol-1-yl)-4-[4-(trifluoromethyl)phenyl]-5-oxazolyl}propionic acid | 1.00 g, yield 83% | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)C(F)(F)F)CCC(=O)O | C20H14F3N3O3
